US03944560
A mixture of 5-chlorosalicylaldehyde (78 g., 0.5 mole), finely powdered anhydrous potassium carbonate (103.5 g., 0.75 mole) and acetone (500 ml.) is stirred under reflux and 2-chloropropionitrile (33.6 g., 0.375 mole) is added over a period of about 5 minutes. The mixture is heated under reflux for 1.5 hours and then treated with potassium carbonate (34.5 g., 0.25 mole) followed by more 2-chloropropionitrile (11.2 g., 0.125 mole). Heating and stirring are continued for 31/2 hours, after which the reaction mixture is filtered and the filter-cake washed with acetone. Evaporation of the combined filtrate gives 3-chloro-6-(1-cyanoethoxy)-benzaldehyde which is recrystallized from aqueous methanol.

reactant | 5-chlorosalicylaldehyde | 0.5 mole, 78 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 0.75 mole, 103.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloropropionitrile | 0.375 mole, 33.6 g | ClC(C#N)C | C3H4ClN
reactant | potassium carbonate | 0.25 mole, 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloropropionitrile | 0.125 mole, 11.2 g | ClC(C#N)C | C3H4ClN
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-chloro-6-(1-cyanoethoxy)-benzaldehyde | ClC=1C=C(C=O)C(=CC1)OC(C)C#N | C10H8ClNO2
